US07645789B2
To a solution of N-(2-(1-amino-2-methylpropan-2-yl)-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (20 mg, 0.051 mmol) in DMF (1 mL) was added potassium carbonate (35 mg, 0.26 mmol) and iodomethane (7.0 μL, 0.11 mmol). The mixture was stirred for 2 h. Water was added and the mixture was extracted with dichloromethane. Combined organic phases were dried over magnesium sulfate, evaporated, coevaporated with toluene (3×) and purified by silica gel chromatography (0-30% EtOAc in hexane) to give 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-(1-(dimethylamino)-2-methylpropan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide (7 mg, 33%). 1H NMR (400 MHz, CDCl3) δ 9.74 (s, 1H), 7.58 (d, J=1.9 Hz, 1H), 7.20 (d, J=8.6 Hz, 1H), 7.15 (s, 1H), 7.01-6.95 (m, 3H), 6.85 (d, J=7.9 Hz, 1H), 6.10 (d, J=0.9 Hz, 1H), 6.02 (s, 2H), 2.43 (s, 2H), 2.24 (s, 6H), 1.68 (dd, J=3.7, 6.7 Hz, 2H), 1.33 (s, 6H), 1.08 (dd, J=3.7, 6.8 Hz, 2H).

reactant | N-(2-(1-amino-2-methylpropan-2-yl)-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.051 mmol, 20 mg | NCC(C)(C)C=1NC2=CC=C(C=C2C1)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1 | C23H25N3O3
reactant | potassium carbonate | 0.26 mmol, 35 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.11 mmol, 7.0 μL | IC | CH3I
reactant | Water | O | H2O
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-(1-(dimethylamino)-2-methylpropan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide | 7 mg, 33% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(CN(C)C)(C)C | C25H29N3O3
